US04535183
3-(4-Benzofuranyloxy)propionitrile (0.935 g, 8 μM) was dissolved in absolute ethanol (225 ml) and ozonised in an analogous manner to that described in example 5(B) to give 3-(2-formyl-3-hydroxyphenoxy)propionitrile which was recrystallised from ethyl acetate/petrol, m.p. 84°-86° C. (Found: C, 62.56; H, 4.79; N, 6.99. C10H9NO3 requires C, 62.38; H, 4.71; N, 7.33%).

reactant | 3-(4-Benzofuranyloxy)propionitrile | 8 μM, 0.935 g | O1C=CC2=C1C=CC=C2OCCC#N | C11H9NO2
reactant | ethanol | 225 ml | C(C)O | C2H6O
product | 3-(2-formyl-3-hydroxyphenoxy)propionitrile | C(=O)C1=C(OCCC#N)C=CC=C1O | C10H9NO3
